US04242493
A large batch of sodium p-chlorophenoxide salt was prepared by the reaction of 529.4 grams (4.12 moles) of p-chlorophenol with 99.0 grams (4.12 moles) of sodium hydride in THF at room temperature. A light yellow solution was obtained after 2 hours. A sample of the salt was neutralized with HCl and analyzed. The analysis showed 100% p-chlorophenol.

reactant | p-chlorophenol | 4.12 moles, 529.4 grams | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 4.12 moles, 99.0 grams | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | sodium p-chlorophenoxide salt | ClC1=CC=C([O-])C=C1.[Na+] | InChI=1S/C6H5ClO.Na/c7-5-1-3-6(8)4-2-5;/h1-4,8H;/q;+1/p-1
